US09315506B2
The synthesis was achieved in analogy to example 3. From 17 g of dimethyl-N-(4-(tert.-butoxycarbonylamino)-2-nitrobenzamido)-L-glutamate 19.5 g of N-(4-amino-2-nitrobenzamido)-L-glutamic acid-dimethylester×trifluoroacetic acid salt were obtained which were used directly in example 4(c).

reactant | N-(4-amino-2-nitrobenzamido)-L-glutamic acid-dimethylester | COC([C@@H](NNC(C1=C(C=C(C=C1)N)[N+](=O)[O-])=O)CCC(=O)OC)=O | C14H18N4O7
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | dimethyl-N-(4-(tert.-butoxycarbonylamino)-2-nitrobenzamido)-L-glutamate | 17 g | COC([C@@H](NNC(C1=C(C=C(C=C1)NC(=O)OC(C)(C)C)[N+](=O)[O-])=O)CCC(=O)OC)=O | C19H26N4O9
